US07109339B2
A microwave-compatible seal tube was charged with (4-methoxy-2-trifluoromethyl-phenyl)-hydrazine hydrochloride (406 mg, 1.7 mmol), 4-piperidone monohydrate hydrochloride (268 mg, 1.7 mmol), and 2-PrOH (4 mL). The reaction mixture was saturated with HCl gas and the tube was sealed. The reaction mixture was subjected to microwave irradiation at 120° C. for 12 min. The solids were filtered, washed with ether and treated with sat. NaHCO3 (10 mL). The basic solution was extracted with EtOAc (2×25 mL) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. Purification of the residue by column chromatography [silica gel, 5–75% (80:18:2 CHCl3/MeOH/concd NH4OH)/CH2Cl2] provided 8-methoxy-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (192 mg, in 42%) as an off-white solid: mp 140–144° C.; 1H NMR (300 MHz, CD3OD) δ 7.10 (d, J=2.0 Hz, 1H), 6.93 (d, J=2.1 Hz, 1H), 3.97 (s, 2H), 3.83 (s, 3H), 3.16 (t, J=5.8 Hz, 2H), 2.87 (t, J=5.7 Hz, 2H); 19F NMR (282 MHz, CD3OD) δ −61.0; ESI MS 271 [C13H13F3N2O+H]+.

reactant | (4-methoxy-2-trifluoromethyl-phenyl)-hydrazine hydrochloride | 1.7 mmol, 406 mg | Cl.COC1=CC(=C(C=C1)NN)C(F)(F)F
reactant | 4-piperidone monohydrate hydrochloride | 1.7 mmol, 268 mg | Cl.O.N1CCC(CC1)=O
reactant | HCl | Cl | ClH
product | 8-methoxy-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 192 mg, 42% | COC1=CC=2C3=C(NC2C(=C1)C(F)(F)F)CCNC3 | C13H13F3N2O
